US05189042
17-Ethyl-20- fluoro-1,14-dihydroxy-12-[2'-(4"-(6'"-tert-butyldimethylsilyloxynaphth-2-yloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetra-methyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone
To a stirred solution of tris(6-tert-butyldimethylsilyloxynaphth-2-yl)bismuthine (100 mg, 0.215 mmol) in CH2Cl2 (4 mL) is added peracetic acid (0.05 mL, 0.238 mmol, 32 wt % in dilute acetic acid). To this stirred solution is added THF (1 mL), 17-ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13, 19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene2,3,10,16-tetraone (100 mg, 0.126 mmol) and Cu(OAc)2 (catalytic amount). The flask is fitted with a reflux condenser and the mixture is heated to 40° C. for 2 hours. The mixture is allowed to cool and was stirred 72 hours. The reaction is quenched with saturated aqueous NaHCO3 and extracted 4× with CH2Cl2. The organic extracts are combined and dried over anhydrous Na2SO4. The mixture is filtered and concentrated in vacuo. The products are isolated by preparative TLC on silica gel to afford the title compound.

reactant | tris(6-tert-butyldimethylsilyloxynaphth-2-yl)bismuthine | 0.215 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=CC2=CC1)[Bi](C1=CC2=CC=C(C=C2C=C1)O[Si](C)(C)C(C)(C)C)C1=CC2=CC=C(C=C2C=C1)O[Si](C)(C)C(C)(C)C
reactant | peracetic acid | 0.238 mmol, 0.05 mL | C(C)(=O)OO | C2H4O3
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | 17-ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13, 19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene2,3,10,16-tetraone | 0.126 mmol, 100 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H68FNO12
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-Ethyl-20- fluoro-1,14-dihydroxy-12-[2'-(4"-(6'"-tert-butyldimethylsilyloxynaphth-2-yloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetra-methyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC1=CC=C(C=C1C=C2)O[Si](C)(C)C(C)(C)C)OC)C)C)O)=O | C59H88FNO13Si
